US07456164B2
Intermediate 107: (1-isopropylazetidin-3-yl)methanol hydrochloride
A mixture of (1-benzhydrylazetidin-3-yl)methanol (4.0 g, 15.8 mmol), acetone (20 ml), 2-propanol (80 ml), c.HCl (1.5 ml) and Pd(OH)2 was hydrogenated at 50 psi/50° for 18 hours. The reaction mixture was filtered through Arbocel® and concentrated in vacuo, the residue was triturated with diisopropyl ether (50 ml) to give the title compound as a pale green hygroscopic powder (2.6 g, 99%). LRMS ESI+m/z 130 [M+H]+.

reactant | (1-benzhydrylazetidin-3-yl)methanol | 15.8 mmol, 4.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)CO | C17H19NO
reactant | acetone | 20 ml | CC(=O)C | C3H6O
reactant | HCl | 1.5 ml | Cl | ClH
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
solvent | 2-propanol | 80 ml | CC(C)O | C3H8O
product | (1-isopropylazetidin-3-yl)methanol hydrochloride | Cl.C(C)(C)N1CC(C1)CO | InChI=1S/C7H15NO.ClH/c1-6(2)8-3-7(4-8)5-9;/h6-7,9H,3-5H2,1-2H3;1H
